* gnetlist -L ../.. -g spice-noqsi -o frequency_trap.net frequency_trap.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
Cs OUT Vtest 1n      
Vtest GND Vtest dc 0
+ac 1
+sin 0 1 10G
CL GND IN 1n      
XU2 IN OUT GM2
X1 OUT IN INV1
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.GLOBAL Vdd Vss
.INCLUDE CMOS_Inverter.net
.INCLUDE Gm2.net
.PARAM SUPPLY=3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
.control
ac lin 100 1 10G
plot db(Vtest)
tran 0.1p 400p
plot Vtest IN OUT
noise v(Vtest) Vtest lin 100 1 10G
setplot noise1
let noise_figure=db(inoise_spectrum)/2-db(2*sqrt(boltz*290*50))
plot noise_figure
.endc

