* gnetlist -L ../.. -g spice-noqsi -o frequency_trap.net frequency_trap.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
Cs X1.IN Vtest 1n      
CL GND Gm2.IN 0.07pF      
XU2 Gm2.IN Gm2.OUT GM2
X1 X1.IN X1.OUT INV1
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.GLOBAL Vdd Vss
.INCLUDE CMOS_Inverter.net
.INCLUDE Gm2.net
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
V_IP_X1 X1.OUT Gm2.IN DC 0V  
V_IP_Gm2 Gm2.OUT X1.IN DC 0V  
Vtest Vtest GND dc 0
+ac 1m
+pulse 0 0.1 10n 200p 200p 10n
.control
ac lin 100 1 10G
plot Vtest
tran 0.1p 400p
plot Vtest X1.IN X1.OUT
noise v(Vtest) Vtest lin 100 1 10G
setplot noise1
let noise_figure=db(inoise_spectrum)/2-db(2*sqrt(boltz*290*50))
plot noise_figure
.endc

