* gnetlist -L ../.. -g spice-noqsi -o frequency_trap.net frequency_trap.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
Ctest X1.IN Vout 1n      
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.GLOBAL Vdd Vss
.INCLUDE CMOS_Inverter.net
.INCLUDE Gm2.net
.INCLUDE active_inductor.net
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
Vtest Vtest GND dc 0
+ac 1
XU1 Vss Vss active_inductor
CL GND Gm2.IN 0.07pF      
XGm2 Gm2.IN Gm2.OUT GM2
X1 X1.IN X1.OUT INV1
V_IP_X1 X1.OUT Gm2.IN DC 0V  
V_IP_Gm2 Gm2.OUT X1.IN DC 0V  
Rs Vtest Vout 1e99 ac=1e-6      
.control
op
ac lin 10000 200 300
plot Vtest Vout
tran 0.1p 400p
plot Vtest X1.IN X1.OUT
setplot
plot i(v.xgm2.v_ip3) i(v.xgm2.v_ip4) i(v.xgm2.v_ip5) i(v.xgm2.v_ip6)
noise v(Vtest) Vtest lin 100 1 10G
setplot noise1
let noise_figure=db(inoise_spectrum)/2-db(2*sqrt(boltz*290*50))
plot noise_figure
.endc

